US05380724
6-[4-[3-(1-Piperazinyl)propylamino]phenyl]-2,4,7-triamino-pteridine
A mixture of 4-[3-(4-formyl-1-piperazinyl)propylamino]benzylcyanide (1.15 g, 4.0 mmol), 5-nitroso-2,4,6-triamino-pyrimidine (0.56 g, 3.6 mmol) and 0.2N sodium-(2-ethoxy-ethoxide) in 2-ethoxyethanol (18 ml) was stirred under reflux for 3 hours, then NaOH (0.14 g, 3.5 mmol) was added and stirring under reflux was continued for further 2.5 hours. After cooling the mixture was diluted with 100 ml of ether. The separated precipitate was collected, washed with ether, then with water and dried to afford the title compound (0.92 g) as a yellow powder, yield: 64.8%. The above product was dissolved in a hot solution of L(+)-tartaric. acid (0.75 g, 5 mmol) in water (6 ml) and after cooling the mixture was diluted with methanol (6 ml). The separated crystals were collected, washed with methanol and dried to give the ditartrate of the title compound, mp. 170°-178° C. Yield of the salt formation: 51.9%.

reactant | 4-[3-(4-formyl-1-piperazinyl)propylamino]benzylcyanide | 4.0 mmol, 1.15 g | C(=O)N1CCN(CC1)CCCNC1=CC=C(CC#N)C=C1 | C16H22N4O
reactant | 5-nitroso-2,4,6-triamino-pyrimidine | 3.6 mmol, 0.56 g | N(=O)C=1C(=NC(=NC1N)N)N | C4H6N6O
reactant | sodium-(2-ethoxy-ethoxide) | 0.2N | C(C)OCC[O-].[Na+]
reactant | NaOH | 3.5 mmol, 0.14 g | [OH-].[Na+]
solvent | 2-ethoxyethanol | 18 ml | C(C)OCCO | C4H10O2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 6-[4-[3-(1-Piperazinyl)propylamino]phenyl]-2,4,7-triamino-pteridine | 0.92 g, yield: 64.8% | N1(CCNCC1)CCCNC1=CC=C(C=C1)C=1N=C2C(=NC(=NC2=NC1N)N)N | C19H26N10
